US07906676B2
2-Fluoro-1-morpholin-4-yl-ethanone (8)
A mixture of ethyl fluoroacetate (50 g, 472 mmol) and morpholine (82 g, 944 mmol) was heated at 70° C. for 20 h. After cooling to ambient temperature, the mixture was added to a stirred mixture of 2 N HCl (240 mL) and methylene chloride (200 mL) over 20 min. The organic layer was separated and the aqueous layer was extracted with dichloromethane (200 mL×2). The combined organic phase was dried over anhydrous MgSO4 and concentrated in vacuo to give 51.7 g (74.6%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 4.96 (d, J=47.2 Hz, 2H), 3.70 (bs, 4H), 3.64 (bs, 2H), 3.47 (bs, 2H).

reactant | ethyl fluoroacetate | 472 mmol, 50 g | FCC(=O)OCC | C4H7FO2
reactant | morpholine | 944 mmol, 82 g | N1CCOCC1 | C4H9NO
reactant | HCl | 2 N, 240 mL | Cl | ClH
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-1-morpholin-4-yl-ethanone | 51.7 g, 74.6% | FCC(=O)N1CCOCC1 | C6H10FNO2
